US05597848
Methyl 4-[4-(4-phenylbutyryl)phenyl]butyrate
To a suspension of 2.10 g of 4-[4-(4-phenylbutyryl)phenyl]butyric acid in 15 ml of methanol, 0.1 ml of sulfuric acid was added, and the mixture was heated under reflux for 4 hours. After the reaction solution was removed under reduced pressure, the residue was dissolved in ethyl acetate and then washed successively with water, aqueous potassium carbonate and water. After the ethyl acetate layer was dried, the solvent was removed under reduced pressure. The residue was washed with isopropyl ether to yield 1.87 g of colorless crystals. Recrystallization from methanol gave colorless flakes, mp 61°~62° C.

reactant | 4-[4-(4-phenylbutyryl)phenyl]butyric acid | 2.10 g | C1(=CC=CC=C1)CCCC(=O)C1=CC=C(C=C1)CCCC(=O)O | C20H22O3
reactant | methanol | 15 ml | CO | CH4O
solvent | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
product | Methyl 4-[4-(4-phenylbutyryl)phenyl]butyrate | 1.87 g | C1(=CC=CC=C1)CCCC(=O)C1=CC=C(C=C1)CCCC(=O)OC | C21H24O3
